US04312858
Active fractions Nos. 96 to 112 were lyophilized to afford 0.65 g of a crude powder containing substance KA-7038. Lyophilization of active fractions Nos. 113 to 134 afforded 0.4 g of a crude powder of substance KA-7038 I and substance KA-7038 VII. Lyophilization of fractions Nos. 135 to 149 afforded 0.36 g of a crude powder of a mixture of substance KA-7038 I, substance KA-7038 II and substance KA-7038 VI. Furthermore, 0.9 g of a free base of substance KA-7038 III was obtained from fractions Nos. 150 to 172.

reactant | KA-7038 II | CN[C@H]1[C@@H](C[C@@H]([C@H]([C@@H]1O)O[C@@H]2[C@@H](CC[C@H](O2)CN)N)N)O | C13H28N4O4
reactant | KA-7038 VI | CNC[C@@H]1CC[C@H]([C@H](O1)O[C@@H]2[C@H](C[C@H]([C@H]([C@H]2O)NC)OC)N)N | C15H32N4O4
reactant | KA-7038 III | CNC[C@@H]1CC[C@H]([C@H](O1)O[C@@H]2[C@H](C[C@@H]([C@H]([C@H]2O)NC)OC)N)N | C15H32N4O4
product | KA-7038 VII | 0.9 g | CN[C@H]1[C@@H](C[C@@H]([C@H]([C@@H]1O)O[C@@H]2[C@@H](CC[C@H](O2)CN)N)N)OC | C14H30N4O4
